US05340831
Preparation of methyl 4-(2-bromoethyl)benzoate
A solution of thionyl chloride (4.8 g) in chloroform (10 ml) was added, dropwise, to a solution of 4-(2-bromoethyl)benzoic acid (5.7 g) in chloroform (40 ml) and anhydrous dioxan (20 ml). When the addition was complete, the mixture was heated under reflux for 2 hours then cooled to room temperature and further thionyl chloride (2.4 g) in chloroform (10 ml) was added. The mixture was heated under reflux for 2 hours then allowed to cool to room temperature and concentrated in vacuo to give an oil which was dissolved in methanol (50 ml) and heated under reflux for 10 minutes. On cooling to room temperature, the mixture was stirred for 48 hours then concentrated in vacuo. The residue was parititoned between ethyl acetate (200 ml) and 5% aqueous sodium carbonate (200 ml), the layers were separated and the organic layer was washed with water (150 ml) then dried (MgSO4) and concentrated in vacuo to give the title compound as an oil, yield, 5.7 g.

reactant | thionyl chloride | 4.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(2-bromoethyl)benzoic acid | 5.7 g | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | thionyl chloride | 2.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | methyl 4-(2-bromoethyl)benzoate | BrCCC1=CC=C(C(=O)OC)C=C1 | C10H11BrO2
